US06051712
A solution of 168 mg (0.47 mmol) of tert-butyl (3RS,4RS)-4-(3-bromophenyl)-3-hydroxy-piperidine-1-carboxylate and 157 mg (0.71 mmol) of 2-bromomethyinaphthalene in 2 ml of dimethylformamide was treated with 28 mg (0.7 mmol) of sodium hydride (60% dispersion in refined oil) and the mixture was stirred at room temperature for 3 hours. Subsequently, the reaction mixture was partitioned between ethyl acetate and water, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product was purified by chromatography on silica gel with a 1:4 mixture of ethyl acetate and hexane as the eluent. There were obtained 173 mg (74% of theory) of tert-butyl (3RS,4RS)-4-(3-bromophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a light yellow oil; MS: 439, 441 (M-C4H8)+.

reactant | tert-butyl (3RS,4RS)-4-(3-bromophenyl)-3-hydroxy-piperidine-1-carboxylate | 0.47 mmol, 168 mg | BrC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22BrNO3
reactant | 2-bromomethyinaphthalene | 0.71 mmol, 157 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydride | 0.7 mmol, 28 mg | [H-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-4-(3-bromophenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 173 mg, 74% | BrC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C27H30BrNO3
